US04209445
1 mol of piperonal is reacted with 1.1 mols of crotonic acid piperidide in the presence of 0.09 mol of triethylbenzylammonium hydroxide in 100 parts by volume of one of the solvents indicated in Table 3 which follows, under the conditions described in Example 1 to give piperonylidenecrotonic acid piperidide. The yields achieved are likewise indicated in Table 3.

reactant | piperonal | 1 mol | C1=CC2=C(C=C1C=O)OCO2 | C8H6O3
reactant | crotonic acid piperidide | 1.1 mols | C(\C=C\C)(=O)N1CCCCC1 | C9H15NO
reactant | triethylbenzylammonium hydroxide | 0.09 mol | [OH-].C(C)[N+](CC1=CC=CC=C1)(CC)CC
product | piperonylidenecrotonic acid piperidide | C(C1=CC=2OCOC2C=C1)=C/C=C/C(=O)N1CCCCC1 | C17H19NO3
